US09371320B2
B) 1-(2,6-difluorophenyl)-3-(4-(morpholin-4-yl)phenyl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one
To a mixture of 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine (50.0 mg) and sodium iodide (35.5 mg) in acetonitrile (3 mL) was added chloro(trimethyl)silane (0.0760 mL) at room temperature, and the mixture was stirred at 50° C. for 16 hr. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, methanol/ethyl acetate) to give the title compound (36.5 mg).

reactant | 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 50.0 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCOCC2 | C23H20F2N4O2
reactant | sodium iodide | 35.5 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.0760 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(2,6-difluorophenyl)-3-(4-(morpholin-4-yl)phenyl)-1,5-dihydro-4H-pyrazolo[4,3-c]pyridin-4-one | 36.5 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(NC=CC21)=O)C2=CC=C(C=C2)N2CCOCC2 | C22H18F2N4O2
